US05635506
Preparation of Anthracene-1,9-Dicarboxylic Acid Anhydride
A suspension of 6.5 g of anthracene-1,9-dicarboxylic acid (E. D. Bergmann and R. Ikan, J. Org. Chem., 23, 907 (1958)) in 100 ml of acetic anhydride was heated at reflux for 3 hours. The mixture was cooled and the orange precipitate was collected by filtration, washed with ether and dried in air to give 5.1 g (68%) of the title compound. Recrystallization from dimethylsulfoxide or toluene gave orange plates with melting point 289°-290° C.

reactant | anthracene-1,9-dicarboxylic acid | 6.5 g | C1(=CC=CC2=CC3=CC=CC=C3C(=C12)C(=O)O)C(=O)O | C16H10O4
solvent | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | Anthracene-1,9-Dicarboxylic Acid Anhydride | 5.1 g, 68% | C12=CC=CC3=CC4=CC=CC=C4C(=C13)C(=O)OC2=O | C16H8O3
